US06040328
1/ Preparation of N-(2-hydroxyethyl)-N'- methyl-piperazine:
N-methyl-piperazine (10 g, 100 mmoles) and 2-chloroethanol (8.5 g,100 mmoles) are stirred at 100° C. for 4 hours. 250 ml of acetone are added to the very viscous reaction mixture and the resulting suspension is neutralised with 15 ml of triethylamine. After filtration of the triethylammonium chloride, the solvent is evaporated under reduced pressure. The desired compound is obtained after purification by chromatography on an alumina column (eluent:ethyl acetate) as a colourless oil.

reactant | N-methyl-piperazine | 100 mmoles, 10 g | CN1CCNCC1 | C5H12N2
reactant | 2-chloroethanol | 100 mmoles, 8.5 g | ClCCO | C2H5ClO
reactant | acetone | 250 ml | CC(=O)C | C3H6O
solvent | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
product | N-(2-hydroxyethyl)-N'- methyl-piperazine | Yield: 75% | OCCN1CCN(CC1)C | C7H16N2O
